US04215044
Similarly, 2-acetylthiophene, 5-nonanone and stearone give, for example, by treatment with chlorotriethylsilane, the corresponding siloxy compounds which, upon reaction with trifluoromethyl hypofluorite, give 2-β-fluoroacetylthiophene, 4-fluorononane-5-one and α-fluorostearone, respectively.

reactant | 2-acetylthiophene | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | 5-nonanone | CCCCC(CCCC)=O | C9H18O
reactant | stearone | CCCCCCCCCCCCCCCCCC(=O)CCCCCCCCCCCCCCCCC | C35H70O
reactant | chlorotriethylsilane | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | trifluoromethyl hypofluorite | FOC(F)(F)F | CF4O
product | 4-fluorononane-5-one | FC(CCC)C(CCCC)=O | C9H17FO
